US05563162
8-[N-tert-Butoxycarbonyl-N-(2,6-dichloro-3-nitrobenzyl)amino]-2-methylquinoline (100 mg) was treated with 4M hydrogen chloride -ethyl acetate (2 ml) at ambient temperature for 40 minutes. The precipitate was collected by vacuum filtration and washed with ethyl acetate to give 8-[(2,6-dichloro-3-nitrobenzyl)amino]-2-methylquinoline dihydrochloride (88 mg) as pale yellow crystals.

reactant | 8-[N-tert-Butoxycarbonyl-N-(2,6-dichloro-3-nitrobenzyl)amino]-2-methylquinoline | 100 mg | C(C)(C)(C)OC(=O)N(CC1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl)C=1C=CC=C2C=CC(=NC12)C | C22H21Cl2N3O4
reactant | hydrogen chloride -ethyl acetate | 4M, 2 ml | C(C)(=O)OCC.Cl
product | 8-[(2,6-dichloro-3-nitrobenzyl)amino]-2-methylquinoline dihydrochloride | 88 mg | Cl.Cl.ClC1=C(CNC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1[N+](=O)[O-])Cl | InChI=1S/C17H13Cl2N3O2.2ClH/c1-10-5-6-11-3-2-4-14(17(11)21-10)20-9-12-13(18)7-8-15(16(12)19)22(23)24;;/h2-8,20H,9H2,1H3;2*1H
